US07399759B2
6-[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-pyridinecarbonitrile
2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione N-oxide (8.0 g, 31 mmol) was dissolved in mixed solvent of nitroethane (80 ml) and chloroform (150 ml), and trimethylsilyl cyanide (9.3 g, 94 mmol) and N,N-dimethylcarbamoyl chloride (6.8 g, 63 mmol) were added thereto. The mixture was stirred at room temperature for 4 hrs and at 60° C. for 24 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (2:1, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (1.8 g, 22%) as white crystals.

reactant | 2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione N-oxide | 31 mmol, 8.0 g | N1=C(C=CC=C1)C[N+]1(C(C2=CC=CC=C2C1=O)=O)[O-] | C14H10N2O3
reactant | trimethylsilyl cyanide | 94 mmol, 9.3 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 63 mmol, 6.8 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 80 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-pyridinecarbonitrile | 1.8 g, 22% | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=CC(=N1)C#N | C15H9N3O2
